US07351733B2
6-Bromo-N-(2-chlorophenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one (200 mg, 0.76 mmol) and 2-chloroaniline (193 mg, 1.51 mmol) in a similar manner as described above to give 43 mg (15%) of a white solid; 1H-NMR (DMSO-d6): δ 11.08 (s, 1H), 7.57 (d, 1H), 7.27-7.23 (m, 2H), 7.16-7.12 (m, 2H), 6.92 (d, 1H), 6.64-6.60 (m, 1H), 5.12 (d, 1H), 4.95-4.90 (m, 1H), 2.71-2.56 (m, 2H), 2.04-1.76 (m, 4H); MS m/z (M−1) 373, 375.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one | 0.76 mmol, 200 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10BrNO
reactant | 2-chloroaniline | 1.51 mmol, 193 mg | ClC1=C(N)C=CC=C1 | C6H6ClN
product | 6-Bromo-N-(2-chlorophenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=C(C=CC=C1)Cl | C18H16BrClN2
